US07902187B2
6-chloro-2-(5-fluoro-2-nitrophenylamino)-9-(tetrahydro-2H-pyran-4-yl)-7H-purin-8(9H)-one.
To an oven-dried vial was added 2-amino-6-chloro-9-(tetrahydro-2H-pyran-4-yl)-7H-purin-8(9H)-one (50 mg of HCl salt, 0.186 mmol, 1 equiv.) in anhydrous toluene (3 mL), then freshly grounded cesium carbonate (85 mg, 0.26 mmol, 1.4 equiv.) with stirring at room temperature under Ar. After 20 min, Pd(OAc)2 (12.5 mg, 0.019 mmol, 0.1 equiv.), racemic BINAP (17.3 mg, 0.028 mmol, 0.15 equiv.) and 1-bromo-5-fluoro-2-nitrobenzene (Oakwood) (53 mg, 0.24 mmol, 1.3 equiv.) were added as solids, followed by DIEA (50 μL, 1.5 equiv.). The vial was purged with Ar for 3 min, then closed and heated at 80° C. for 18 h. The reaction mixture was cooled to room temperature, diluted with 5% methanol in methylene chloride, filtered through a Nylon 0.45 μm filter, and the filter repeatedly washed with 5% methanol in methylene chloride. The filtrate was concentrated in vacuo and the resulting residue was purified using preparative TLC (silica gel, 4.25% methanol in methylene chloride) to give the desired product as a yellow solid (45.3 mg, 60% yield). 1H NMR (300 MHz, CDCl3) δ, ppm: 10.90 (s, 1H), 8.89 (dd, 1H), 8.45 (dd, 1H), 8.10 (br s, 1H), 6.92-6.83 (m, 1H), 4.75-4.60 (m, 1H), 4.28 (dd, 2H), 3.65 (app t, 2H), 2.82 (tdd, 2H), 1.90 (br d, 2H); MS (EI) m/z 409.1 (MH)+.

reactant | 2-amino-6-chloro-9-(tetrahydro-2H-pyran-4-yl)-7H-purin-8(9H)-one | 0.186 mmol, 50 mg, 1 equiv. | NC1=NC(=C2NC(N(C2=N1)C1CCOCC1)=O)Cl | C10H12ClN5O2
reactant | cesium carbonate | 0.26 mmol, 85 mg, 1.4 equiv. | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | BINAP | 0.028 mmol, 17.3 mg, 0.15 equiv. | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | 1-bromo-5-fluoro-2-nitrobenzene | 0.24 mmol, 53 mg, 1.3 equiv. | BrC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3BrFNO2
reactant | DIEA | 50 μL, 1.5 equiv. | CCN(C(C)C)C(C)C | C8H19N
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 0.019 mmol, 12.5 mg, 0.1 equiv. | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 6-chloro-2-(5-fluoro-2-nitrophenylamino)-9-(tetrahydro-2H-pyran-4-yl)-7H-purin-8(9H)-one | 45.3 mg, 60% yield | ClC1=C2NC(N(C2=NC(=N1)NC1=C(C=CC(=C1)F)[N+](=O)[O-])C1CCOCC1)=O | C16H14ClFN6O4
